US05236952
a mixture of 3.93 g of n-hexyl 3,4-dihydroxy-5-nitrophenylglyoxylate and 1.38 g of 2-aminophenol is melted at 120° while stirring. The melt crystallizes after 5 minutes. After 2 hours it is cooled and recrystallized from methanol. There is obtained 3-(3,4-dihydroxy-5-nitrophenyl)-2H-1,4-benzoxazin-2-one of m.p. 202°-204°.

reactant | n-hexyl 3,4-dihydroxy-5-nitrophenylglyoxylate | 3.93 g | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(C(=O)OCCCCCC)=O | C14H17NO7
reactant | 2-aminophenol | 1.38 g | NC1=C(C=CC=C1)O | C6H7NO
product | 3-(3,4-dihydroxy-5-nitrophenyl)-2H-1,4-benzoxazin-2-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=1C(OC2=C(N1)C=CC=C2)=O | C14H8N2O6
